US07951810B2
Step b: [(3aR,4R,6R,6aR)-6-(6-cyclopropyl-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methanol
A suspension of trimethylsulfoxonium iodide (150 mg, 0.68 mmol and NaH (60% in mineral oil, 18 mg, 0.75 mmol) in DMSO (2.00 mL) was stirred for 30 minutes at r.t. [(3aR,4R,6R,6aR)-2,2-dimethyl-6-(6-vinyl-9H-purin-9-yl)tetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl acetate (50 mg, 0.0.13 mmol) in DMSO (3 mL) was added slowly and the reaction was stirred at r.t. for 90 minutes. The reaction mixture was treated with saturated aq NH4Cl and extracted with DCM. The combined organics were washed with brine, dried (MgSO4), filtered and concentrated. The residue was purified by flash chromatography (0 to 50% EtOAc/hexanes) to yield the title compound (15 mg, 33%).

reactant | trimethylsulfoxonium iodide | [I-].C[S+](=O)(C)C
reactant | NaH | 0.75 mmol, 18 mg | [H-].[Na+]
reactant | [(3aR,4R,6R,6aR)-2,2-dimethyl-6-(6-vinyl-9H-purin-9-yl)tetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl acetate | 50 mg | C(C)(=O)OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)C=C | C17H20N4O5
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMSO | 2.00 mL | CS(=O)C | C2H6OS
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | [(3aR,4R,6R,6aR)-6-(6-cyclopropyl-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methanol | 15 mg, 33% | C1(CC1)C1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO | C16H20N4O4
